US06784192B2
1-[(5-Cyano-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-4-[(E)-2-(2-fluorophenyl)-1-ethenyl]piperidine
To acetonitrile (10 ml) were added 214 mg of 1-[(5-cyano-2-methoxy-3-pyridinyl)methyl]-4-[(E)-2-(2-fluorophenyl)-1-ethenyl]piperidine, 137 mg of sodium iodide and 0.1 ml of chlorotrimethylsilane, followed by stirring at room temperature. After 5 hours, 685 mg of sodium iodide and 0.5 ml of chlorotrimethylsilane were added thereto, followed by stirring at room temperature for 20 minutes. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with an aqueous sodium carbonate, an aqueous sodium thiosulfate and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was suspended in an aqueous sodium carbonate, followed by stirring at room temperature. The crystals were collected by filtration, to give 185 mg of the title compound as a slight yellow powder.

reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | 1-[(5-cyano-2-methoxy-3-pyridinyl)methyl]-4-[(E)-2-(2-fluorophenyl)-1-ethenyl]piperidine | 214 mg | C(#N)C=1C=C(C(=NC1)OC)CN1CCC(CC1)\C=C\C1=C(C=CC=C1)F | C21H22FN3O
reactant | sodium iodide | 137 mg | [I-].[Na+]
reactant | chlorotrimethylsilane | 0.1 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium iodide | 685 mg | [I-].[Na+]
reactant | chlorotrimethylsilane | 0.5 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | Water | O | H2O
product | 1-[(5-Cyano-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-4-[(E)-2-(2-fluorophenyl)-1-ethenyl]piperidine | 185 mg | C(#N)C=1C=C(C(NC1)=O)CN1CCC(CC1)\C=C\C1=C(C=CC=C1)F | C20H20FN3O
